US07622583B2
N-[2-(2-Bromo-benzoyl)-5-chloro-pyridin-3-yl]-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide
To a solution of N-(2-Bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (250 mg, 0.50 mmol) in 4.0 ml of THF under nitrogen atmosphere at 0° C. was added drop-wise 0.6 mLl (1.2 mmol) of isopropylmagnesium chloride. The mixture was then stirred for 20 min at 0° C. followed by addition of a solution of 2-Bromo-N-methoxy-N-methyl-benzamide(244 mg, 1.0 mmol) in 1mL of THF. The mixture was stirred at room temperature overnight, quenched with saturated ammonium chloride and extracted with ethyl acetate. After concentration of the solvent the residue was purified by flash chromatograph (20% ethyl acetate in hexane) to afford 180 mg of title compound as an off white solid. MS: (M+Na)/z=621.2, (M−32)/z=567.0.

reactant | N-(2-Bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 0.50 mmol, 250 mg | BrC1=NC=C(C=C1N(S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)COC)Cl | C14H10BrCl2F3N2O3S
reactant | isopropylmagnesium chloride | 1.2 mmol | C(C)(C)[Mg]Cl
reactant | 2-Bromo-N-methoxy-N-methyl-benzamide | 1.0 mmol, 244 mg | BrC1=C(C(=O)N(C)OC)C=CC=C1 | C9H10BrNO2
solvent | THF | 4.0 ml | C1CCOC1 | C4H8O
solvent | THF | 1mL | C1CCOC1 | C4H8O
product | N-[2-(2-Bromo-benzoyl)-5-chloro-pyridin-3-yl]-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 180 mg | BrC1=C(C(=O)C2=NC=C(C=C2N(S(=O)(=O)C2=CC(=C(C=C2)Cl)C(F)(F)F)COC)Cl)C=CC=C1 | C21H14BrCl2F3N2O4S
